US04958026
1.2 g of N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dipropylamine is heated under reflux with 20 ml of formic acid for 3 hours. The solution is concentrated. The residue is taken up in water, made alkaline with potassium carbonate, and extracted with ethyl acetate. The organic phase is dried over sodium sulfate and concentrated after the drying agent has been removed by filtration. The residue is chromatographed on silica gel with a mixture of dichloromethane/methanol, thus obtaining 0.42 g of 7-methoxy-4-[2-(N,N-dipropylamino)ethyl]benzimidazole as an oil.

reactant | N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dipropylamine | 1.2 g | NC1=C(C=CC(=C1N)OC)CCN(CCC)CCC | C15H27N3O
reactant | formic acid | 20 ml | C(=O)O | CH2O2
product | 7-methoxy-4-[2-(N,N-dipropylamino)ethyl]benzimidazole | 0.42 g | COC1=CC=C(C2=C1N=CN2)CCN(CCC)CCC | C16H25N3O
